US08497274B2
(iv) Production of N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2,2,2-trifluoroacetamide
Potassium thiocyanate (7.72 g, 79.4 mmol) was suspended in acetic acid (30 mL), and the suspension was stirred at room temperature for 10 min. A solution of N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide (5.4 g, 15.9 mmol) in acetic acid (200 mL) was added to the obtained solution, and the mixture was further stirred at room temperature for 10 min. A solution of bromine (5.05 g, 31.5 mmol) in acetic acid (30 mL) was slowly added dropwise to the obtained solution. After the completion of the dropwise addition, the mixture was stirred at room temperature for 12 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (500 ml), washed successively with saturated aqueous sodium hydrogen carbonate solution (250 mL×2) and saturated brine (250 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was purified by silica gel column chromatography (eluate: ethyl acetate). The obtained solution was concentrated under reduced pressure to give the title compound (5.36 g, 85%) as a pale-yellow powder.

reactant | Potassium thiocyanate | 79.4 mmol, 7.72 g | [S-]C#N.[K+]
reactant | N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide | 15.9 mmol, 5.4 g | NC1=CC(=C(OC=2C=CC(=C(C2)NC(C(F)(F)F)=O)F)C=C1)C#N | C15H9F4N3O2
reactant | bromine | 31.5 mmol, 5.05 g | BrBr | Br2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2,2,2-trifluoroacetamide | 5.36 g, 85% | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=CC(=C(C2)NC(C(F)(F)F)=O)F | C16H8F4N4O2S
